US04898949
5,5-Bis(4-fluoro-2-methylphenyl)-4-(1-methyl-1H-tetrazol-5-yl)-2,4-pentadienal
A solution of 3,3-bis(4-fluoro-2-methylphenyl)-2-(1-methyl-1H-tetrazol-5-yl)-2-propenal (0.88 g, 2.5 mmoles) and triphenylphosphoranylidene acetaldehyde (0.75 g, 2.5 mmoles) in benzene (50 mL) was heated at reflux for 3 hours. The solvent was removed by evaporation and the crude residue purified by column chromatography on silica gel eluting with 1% (v/v) methanol in methylene chloride. The fractions containing material having Rf =0.9 [1:20 (v/v) methanolmethylene chloride] were combined and concentrated to give 0.8 g of the title compound; m.p.=75°-95° C. MS: M+ =380;

reactant | 3,3-bis(4-fluoro-2-methylphenyl)-2-(1-methyl-1H-tetrazol-5-yl)-2-propenal | 2.5 mmoles, 0.88 g | FC1=CC(=C(C=C1)C(=C(C=O)C1=NN=NN1C)C1=C(C=C(C=C1)F)C)C | C19H16F2N4O
reactant | triphenylphosphoranylidene acetaldehyde | 2.5 mmoles, 0.75 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC=O | C20H17OP
reactant | benzene | 50 mL | C1=CC=CC=C1 | C6H6
product | 5,5-Bis(4-fluoro-2-methylphenyl)-4-(1-methyl-1H-tetrazol-5-yl)-2,4-pentadienal | 0.8 g | FC1=CC(=C(C=C1)C(=C(C=CC=O)C1=NN=NN1C)C1=C(C=C(C=C1)F)C)C | C21H18F2N4O
